US05610178
350 mg (1.83 mmol, 3 equiv.) of toluenesulfonic acid monohydrate (recrystallised from CHCl3) are added to a solution of 467 mg of 21-deoxyconcanamycin A (0.55 mmol) in 55 ml of CH3CN/H2O (5:1) and the reaction mixture is stirred at 38° C. for 12 hours. For working-up, the reaction mixture is cooled to 0° C. and 50 ml of saturated NaHCO3 solution are added; the organic solvent is removed in vacuo and the aqueous phase is extracted with CHCl3. TLC monitoring on silica gel (eluant: EtOAc/hexane 1:1) revealed two new zones in addition to the starting material at the starting spot. Column chromatography on silica gel (gradient EtOAc/hexane, 1:1 EtOAc) yields 63 mg (22% of the conversion) of 16-demethyl-21-deoxyconcanolide A, 122 mg of 21-deoxyconcanolide A (42% of the conversion) and 105 mg of starting material.

reactant | toluenesulfonic acid monohydrate | 1.83 mmol, 350 mg, 3 equiv. | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | 21-deoxyconcanamycin A | 0.55 mmol, 467 mg | CC[C@H]1[C@H]([C@@H](C/C(=C/C=C/[C@@H]([C@H](OC(=O)/C(=C/C(=C/[C@H]([C@H]1O)C)/C)/OC)[C@@H](C)[C@H]([C@H](C)[C@H]2C[C@H]([C@@H]([C@H](O2)/C=C/C)C)O[C@H]3C[C@H]([C@@H]([C@H](O3)C)OC(=O)N)O)O)OC)/C)C)O | C46H75NO13
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | CH3CN H2O | 55 ml | CC#N.O
product | 21-deoxyconcanolide A | 122 mg | CC[C@H]1[C@H]([C@@H](C/C(=C/C=C/[C@@H]([C@H](OC(=O)/C(=C/C(=C/[C@H]([C@H]1O)C)/C)/OC)[C@@H](C)[C@H]([C@H](C)[C@H]2C[C@H]([C@@H]([C@H](O2)/C=C/C)C)O)O)OC)/C)C)O | C39H64O9
